US06071903
Methyl 2-{(4-Methoxybenzenesulfonyl)-[2-(4-pyridinylcarbonyl) aminobenzyl]amino}acrylate
To a mixture of 1.5 g (3.80 mmol) of methyl 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionate and 3.0 ml (21.6 mmol) of triethylamine in 15 ml of CH2Cl2 cooled to 0° C. was added 1.7 g (9.5 mmol) ml of 4-pyridinecarbonyl chloride (isonicotinoyl chloride). The mixture was stirred at room temperature overnight and diluted with CH2Cl2. The mixture was washed with H2O, 2 N citric acid, and brine and then dried with Na2SO4. The solvent was removed to give 1.8 g of a light tan solid; Anal. for C24H23N3O6S: Calc'd: C,59.9; H,4.8; N,8.7; S,6.6; Found: C,59.0; H,4.8; N,8.5; S,6.9; Mass spectrum (ES) 482.6(M+H).

reactant | methyl 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionate | 3.80 mmol, 1.5 g | NC1=C(CN(C(C(=O)OC)CO)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C18H22N2O6S
reactant | triethylamine | 21.6 mmol, 3.0 ml | C(C)N(CC)CC | C6H15N
reactant | 4-pyridinecarbonyl chloride | 9.5 mmol, 1.7 g | N1=CC=C(C=C1)C(=O)Cl | C6H4ClNO
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-{(4-Methoxybenzenesulfonyl)-[2-(4-pyridinylcarbonyl) aminobenzyl]amino}acrylate | 1.8 g | COC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)=C)CC1=C(C=CC=C1)NC(=O)C1=CC=NC=C1 | C24H23N3O6S
